Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.56085898557
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],3.58309638301
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4],1.1004860122700002
[H:1][C:2]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.96711820801
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]#[C:12][H:13].[H:10],3.86801708542
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],5.2133870691
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:7],1.91953095462
[H:1][C:2][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-5.44361636809
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-2.12326344116
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][H:7]>>[C:2]=[C:3]([O:4][H:5])[O:6][H:7].[H:1],4.92249206137
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[O:8],0.565413851481
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.92892088057
[C:8]([H:9])[H:10].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.4031194535400004
[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]#[C:8].[H:9],5.96177079352
[H:1][C:2]([H:3])=[C:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.31388948109
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],3.9293917539
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[O:8][C:9][H:10])[C:11]([H:12])[H:13],3.24737791852
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56419871064
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([O:6])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.0625297823099
[H:1][C:2]([H:3])[O:6][C:7]([H:8])([H:9])[O:10][C:11](=[C:4]([H:5])[H:13])[H:12]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],-1.09655633073
[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-6.1805592911800025
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.67697766636
[O:1]=[C:2]([O:3])/[C:10](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[H:11]>>[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1[H:11],-0.21791806743
[H:10].[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.58967160348
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.72709444734
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:3][C:5](=[C:4])[H:6],7.011108417410001
